US09388172B2
In a 10 mL pear-shaped flask, 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid (50 mg, 130 μmol) and DIEA (50.6 mg, 68.3 μl, 391 μmol) were combined with DMF (2 ml) to give a colorless solution. 2-Bromo-1-(4-chlorophenyl)ethanone (60.9 mg, 261 μmol) was added and the resultant mixture was stirred at room temperature overnight. The reaction was diluted with ethyl acetate, washed with brine and H2O, dried with MgSO4, filtered and concentrated. The crude residue was purified on a silica column (100% hexane to 30% ethyl acetate/hexane eluent) to afford 54 mg (77%) of 2-(4-chlorophenyl)-2-oxoethyl 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)-phenyl)piperidin-1-yl)methyl)butanoate as an oil. MH+=536.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid | 130 μmol, 50 mg | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
reactant | DIEA | 391 μmol, 68.3 μl, 50.6 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-Bromo-1-(4-chlorophenyl)ethanone | 261 μmol, 60.9 mg | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chlorophenyl)-2-oxoethyl 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)-phenyl)piperidin-1-yl)methyl)butanoate | 54 mg, 77% | FC(C(CC(=O)OCC(=O)C1=CC=C(C=C1)Cl)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C25H24ClF6NO3
